US06518423B1
1-Benzyl-4-[4-[2-(methoxymethoxy)ethyl]phenyl]piperidin-4-ol
Into a solution of 10 g of 4-bromophenethyl methoxymethyl ether in 200 ml of tetrahydrofuran was dropped 28 ml of a 1.6 M solution of n-butyllithium in hexane at −78° C. and the resulting mixture was stirred at the same temperature for 30 minutes. After heating to −20° C., a solution of 7.0 g of 1-benzyl-4-piperidone in tetrahydrofuran (10 ml) was added thereto. The mixture was reacted at the same temperature for 2 hours. After adding water, the resulting mixture was extracted with ethyl acetate, washed with a saturated aqueous solution of sodium chloride and dried over anhydrous magnesium sulfate. After distilling off the solvent under reduced pressure, 7.6 g of the title compound was obtained as a yellow oily substance.

reactant | 4-bromophenethyl methoxymethyl ether | 10 g | COCOCCC1=CC=C(C=C1)Br | C10H13BrO2
reactant | n-butyllithium | C(CCC)[Li]
reactant | 1-benzyl-4-piperidone | 7.0 g | C(C1=CC=CC=C1)N1CCC(CC1)=O | C12H15NO
reactant | water | O | H2O
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 1-Benzyl-4-[4-[2-(methoxymethoxy)ethyl]phenyl]piperidin-4-ol | 7.6 g | C(C1=CC=CC=C1)N1CCC(CC1)(O)C1=CC=C(C=C1)CCOCOC | C22H29NO3
